US04107169
EXAMPLE 16 -- Preparation of 2-(4-carbomethoxyphenyl)-benzoxazole (XVI)
In the apparatus described in Example 1, 25.4 g of 4-trichloromethylbenzoic acid methyl ester (0.1 mol) and 10.9 g of 2-aminophenol (0.1 mol) were mixed and slowly heated up to 200° C, so that the stream of HCl that commences at 130° C would not become too strong. The total reaction time was about 4 hours. The ground reaction product was washed thrice with 100 ml of hot benzene and the combined and concentrated benzene phases where chromatographed through an Al2O3 : 8.9 g of raw product XVI, melting point 190°-191° C (35% of the theory), becoming 193°-194° C after recrystallization from benzene.

reactant | 4-trichloromethylbenzoic acid methyl ester | 0.1 mol, 25.4 g | COC(C1=CC=C(C=C1)C(Cl)(Cl)Cl)=O | C9H7Cl3O2
reactant | 2-aminophenol | 0.1 mol, 10.9 g | NC1=C(C=CC=C1)O | C6H7NO
reactant | HCl | Cl | ClH
product | 2-(4-carbomethoxyphenyl)-benzoxazole | C(=O)(OC)C1=CC=C(C=C1)C=1OC2=C(N1)C=CC=C2 | C15H11NO3
